US06017919
Ethanol (3 ml) and a 1N aqueous sodium hydroxide solution (3 ml) were added to pentyl 4-methoxy-3-pentylaminobenzoate (500 mg, 1.63 mmol), and the mixture was refluxed under heating for 2 hours. Ethanol was evaporated under reduced pressure. Conc. hydrochloric acid was added to neutralize this solution, and the aqueous layer was etacted 3 times with ethyl acetate (5 ml). The organic layers were combined, washed 3 times with saturated brine (5 ml) and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained crude crystals were purif ied by washing with hexane to give 4methoxy-3-pentylaminobenzoic acid (356 mg, 71%) as colorless crystals.

reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | pentyl 4-methoxy-3-pentylaminobenzoate | 1.63 mmol, 500 mg | COC1=C(C=C(C(=O)OCCCCC)C=C1)NCCCCC | C18H29NO3
solvent | Ethanol | 3 ml | C(C)O | C2H6O
product | 4methoxy-3-pentylaminobenzoic acid | 356 mg, 71% | COC1=C(C=C(C(=O)O)C=C1)NCCCCC | C13H19NO3
